US07262206B2
(2) 1,5-diacetyl-3-[1-methoxy-ethylidene]-2-indolinone
Prepared from 5-acetyl-2-indolinone, acetic anhydride and trimethyl orthoacetate Rf=0.40 (silica gel, methylene chloride/methanol 50:1)

reactant | 5-acetyl-2-indolinone | C(C)(=O)C=1C=C2CC(NC2=CC1)=O | C10H9NO2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | trimethyl orthoacetate | C(C)(OC)(OC)OC | C5H12O3
solvent | methylene chloride methanol | C(Cl)Cl.CO
product | 1,5-diacetyl-3-[1-methoxy-ethylidene]-2-indolinone | C(C)(=O)N1C(C(C2=CC(=CC=C12)C(C)=O)=C(C)OC)=O | C15H15NO4
